US07368579B2
2-Bromo-4-nitroimidazole (7.63 g) and 1-(tert-butyldimethylsilanyloxy)-3-chloro-2-(tetrahydropyran-2-yloxy)propane (12 g) were dissolved in N,N-dimethylformamide (80 ml), then potassium carbonate (6.6 g) and sodium iodide (6.3 g) were added thereto, and the reaction mixture was heated and stirred at 110° C. for 12 hours. Ice-water (240 ml) was added, extracted twice with ethyl acetate (150 ml), and the extracts were combined together and washed with an aqueous solution being saturated with sodium chloride (100 ml), then dried over anhydrous magnesium sulfate. After being filtrated under a reduced pressure, the filtrate was concentrated under a reduced pressure. The residue obtained was purified by use of a silica gel column chromatography (eluent: dichloromethane/ethyl acetate=100/1), there was obtained 2-bromo-1-[3-(t-butyldimethylsilanyloxy)-2-(tetrahydropyran-2-yloxy)propyl]-4-nitroimidazole (12.69 g, yield: 68.7%)

reactant | 2-Bromo-4-nitroimidazole | 7.63 g | BrC=1NC=C(N1)[N+](=O)[O-] | C3H2BrN3O2
reactant | 1-(tert-butyldimethylsilanyloxy)-3-chloro-2-(tetrahydropyran-2-yloxy)propane | 12 g | [Si](C)(C)(C(C)(C)C)OCC(CCl)OC1OCCCC1 | C14H29ClO3Si
reactant | potassium carbonate | 6.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 6.3 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 2-bromo-1-[3-(t-butyldimethylsilanyloxy)-2-(tetrahydropyran-2-yloxy)propyl]-4-nitroimidazole | 12.69 g, yield: 68.7% | BrC=1N(C=C(N1)[N+](=O)[O-])CC(CO[Si](C)(C)C(C)(C)C)OC1OCCCC1 | C17H30BrN3O5Si
